US08242104B2
Following the procedure for 5-chloro-1-(2,4-difluoro-phenyl)-1H-[1,2,4]triazole, 1-(2-chloro-phenyl)-1H-[1,2,4]triazole was reacted with n-butyllithium and hexachloroethane to give 5-Chloro-1-(2-chloro-phenyl)-1H-[1,2,4]triazole as a white solid. 1H NMR δ (ppm) (CDCl3): 8.05 (1H, s), 7.61-7.58 (1H, m), 7.55-7.48 (1H, m), 7.46-7.43 (2H, m).

reactant | 5-chloro-1-(2,4-difluoro-phenyl)-1H-[1,2,4]triazole | ClC1=NC=NN1C1=C(C=C(C=C1)F)F | C8H4ClF2N3
reactant | 1-(2-chloro-phenyl)-1H-[1,2,4]triazole | ClC1=C(C=CC=C1)N1N=CN=C1 | C8H6ClN3
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexachloroethane | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
product | 5-Chloro-1-(2-chloro-phenyl)-1H-[1,2,4]triazole | ClC1=NC=NN1C1=C(C=CC=C1)Cl | C8H5Cl2N3
